US08067457B2
rel-N-(2-{[(3R,4R)-4-(benzyloxy)-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide (96)
The title compound was synthesized in similar fashion to rel-N-(2-{[(3R,4R)-4-(allyloxy)-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide, benzyl bromide was substituted for allyl bromide and was isolated as a white solid. 1H-NMR (MeOD) δ: 1.51 (m, 2H), 1.82 (m, 2H), 2.40 (m, 1H), 2.58 (m, 1H), 2.76 (m, 1H), 3.02-3.14 (m, 2H), 3.40 (m, 2H), 3.91-3.98 (m, 3H), 4.05 (s, 2H), 4.41 (m, 1H), 4.60 (m, 2H), 7.26-7.38 (m, 5H), 7.70 (t, J=7.7 Hz, 1H), 7.87 (d, J=7.7 Hz, 1H), 8.15 (d, J=7.7 Hz, 1H), 8.23 (s, 1H) MS m/z: 506 (M+1).

reactant | rel-N-(2-{[(3R,4R)-4-(allyloxy)-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | C(C=C)O[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C22H28F3N3O4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | rel-N-(2-{[(3R,4R)-4-(benzyloxy)-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | C(C1=CC=CC=C1)O[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C26H30F3N3O4
